US09399630B2
Aluminium chloride (82.44 g) was added to dichloromethane (350 ml) under stirring at 25-30° C. The resulting mass was cooled to 0-5° C., followed by drop-wise addition of 4-chlorobutyryl chloride (87.5 g) for 30-45 minutes at 0° C. and then stirring for 5 minutes at the same temperature. A solution of 5-cyanoindole (50 g) in dichloromethane (350 ml) was added drop-wise to the resulting mass at 0-5° C. within 1-2 hours, followed by stirring for 30 minutes at the same temperature. The temperature of the reaction mass was gradually increased to 25-30° C., followed by stirring for 12-16 hours at the same temperature. The reaction mass was slowly poured into crushed ice (420 g) with slow stirring, the resulting mixture was cooled to 0-5° C. and then stirred for 1 hour at the same temperature. The separated solid was filtered, washed the material subsequently with dichloromethane (2×85 ml) and water (2×85 ml) and then dried at 25-30° C. to produce a solid material (Dry weight: 93 g). The resulting solid was dissolved in ethyl acetate (4000 ml) at 50-55° C., followed by the addition of activated carbon (5 g) and then stirring the mixture for 5 minutes at the same temperature. The resulting mass was filtered through celite bed and washed the bed with hot ethyl acetate (100 ml). The resulting filtrate was initially cooled to 25-30° C. and further cooled to 0-5° C., followed by stirring the mass for 1 hour at the same temperature. The separated solid was filtered, washed with chilled ethyl acetate (100 ml) and then dried the material at 50-55° C. until constant weight to produce 65 g of 3-(4-chlorobutyryl)-1H-indole-5-carbonitrile (Purity by HPLC: 99.2%; Yield: 74.8%).

reactant | Aluminium chloride | 82.44 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chlorobutyryl chloride | 87.5 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 5-cyanoindole | 50 g | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 3-(4-chlorobutyryl)-1H-indole-5-carbonitrile | 65 g, Yield: 74.8% | ClCCCC(=O)C1=CNC2=CC=C(C=C12)C#N | C13H11ClN2O
